US04014888
3-Methyl-1H-pyrido(2,3-c) (1,2,6)thiadiazin-4(3H)-one-2,2-dioxide
Methyl 2-(((methylamino)sulfonyl)amino)-3-pyridine carboxylate (11.0 grams; 0.045 mole) was dissolved in 150 ml of methanol and sodium methoxide (7.3 grams; 0.135 mole) added thereto. The resulting reaction mixture was heated at reflux temperatures for a period of about four hours. After cooling the reaction mixture, the solvent was removed in vacuo and the residue thus obtained suspended in 30 ml of water and the resulting suspension acidified to a pH of about 1.0 with concentrated hydrochloric acid. The reaction mixture was filtered and the precipitate thus obtained was washed with several portions of water and dried in vacuo. As a result of such operations, the desired title compound was obtained as a white powder having a melting point of 290° C.-292° C.

reactant | Methyl 2-(((methylamino)sulfonyl)amino)-3-pyridine carboxylate | 0.045 mole, 11.0 grams | CNS(=O)(=O)NC1=NC=CC=C1C(=O)OC | C8H11N3O4S
reactant | sodium methoxide | 0.135 mole, 7.3 grams | C[O-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | 150 ml | CO | CH4O
solvent | water | 30 ml | O | H2O
product | 3-Methyl-1H-pyrido(2,3-c) (1,2,6)thiadiazin-4(3H)-one-2,2-dioxide | CN1C(C2=C(NS1(=O)=O)N=CC=C2)=O | C7H7N3O3S
